************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: 38Decoder
* View Name:     schematic
* Netlisted on:  Jan 15 03:28:37 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    std_inverter
* View Name:    schematic
************************************************************************

.SUBCKT std_inverter GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM0 Y X GND GND n18 W=220n L=180n m=1
MPM0 Y X VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    NOR3
* View Name:    schematic
************************************************************************

.SUBCKT NOR3 A B C GND VDD VOUT
*.PININFO A:I B:I C:I VOUT:O GND:B VDD:B
MNM2 VOUT C GND GND n18 W=220n L=180n m=1
MNM0 VOUT A GND GND n18 W=220n L=180n m=1
MNM1 VOUT B GND GND n18 W=220n L=180n m=1
MPM2 VOUT C net46 VDD p18 W=1.32u L=180n m=1
MPM1 net45 A VDD VDD p18 W=1.32u L=180n m=1
MPM0 net46 B net45 VDD p18 W=1.32u L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    38Decoder
* View Name:    schematic
************************************************************************

.SUBCKT 38Decoder ADD0 ADD1 ADD2 GND O0 O1 O2 O3 O4 O5 O6 O7 VDD
*.PININFO ADD0:I ADD1:I ADD2:I O0:O O1:O O2:O O3:O O4:O O5:O O6:O O7:O GND:B 
*.PININFO VDD:B
XI2 GND VDD ADD2 INVADD2 / std_inverter
XI1 GND VDD ADD1 INVADD1 / std_inverter
XI0 GND VDD ADD0 INVADD0 / std_inverter
XI10 INVADD0 INVADD1 INVADD2 GND VDD O7 / NOR3
XI9 ADD0 INVADD1 INVADD2 GND VDD O6 / NOR3
XI8 INVADD0 ADD1 INVADD2 GND VDD O5 / NOR3
XI7 ADD0 ADD1 INVADD2 GND VDD O4 / NOR3
XI6 INVADD0 INVADD1 ADD2 GND VDD O3 / NOR3
XI5 ADD0 INVADD1 ADD2 GND VDD O2 / NOR3
XI4 INVADD0 ADD1 ADD2 GND VDD O1 / NOR3
XI3 ADD0 ADD1 ADD2 GND VDD O0 / NOR3
.ENDS

