************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: AND2_SC
* View Name:     schematic
* Netlisted on:  Jan 14 20:15:14 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_SC
* View Name:    schematic
************************************************************************

.SUBCKT AND2_SC A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MPM2 VOUT net15 VDD VDD p18 W=440n L=180n m=1
MPM1 net15 B VDD VDD p18 W=440n L=180n m=1
MPM0 net15 A VDD VDD p18 W=440n L=180n m=1
MNM2 VOUT net15 GND GND n18 W=220n L=180n m=1
MNM1 net25 B GND GND n18 W=440n L=180n m=1
MNM0 net15 A net25 GND n18 W=440n L=180n m=1
.ENDS

