************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: AND2_TG
* View Name:     schematic
* Netlisted on:  Dec 29 19:18:52 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_TG
* View Name:    schematic
************************************************************************

.SUBCKT AND2_TG A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MPM2 net14 A VDD VDD p18 W=440n L=180n m=1
MPM1 B net14 Y VDD p18 W=220n L=180n m=1
MPM0 GND A Y VDD p18 W=220n L=180n m=1
MNM2 net14 A GND GND n18 W=220n L=180n m=1
MNM1 B A Y GND n18 W=220n L=180n m=1
MNM0 GND net14 Y GND n18 W=220n L=180n m=1
.ENDS

