************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Bitcell
* View Name:     schematic
* Netlisted on:  Jan 13 02:24:43 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Bitcell
* View Name:    schematic
************************************************************************

.SUBCKT Bitcell BIT GND INVBIT VDD WL
*.PININFO WL:I BIT:B GND:B INVBIT:B VDD:B
MNM1 net16 net15 GND GND n18 W=800n L=180n m=1
MNM0 GND net16 net15 GND n18 W=800n L=180n m=1
MNM3 INVBIT WL net16 GND n18 W=440n L=180n m=1
MNM2 net15 WL BIT GND n18 W=440n L=180n m=1
MPM1 net16 net15 VDD VDD p18 W=220n L=180n m=1
MPM0 VDD net16 net15 VDD p18 W=220n L=180n m=1
.ENDS

