************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Buffer
* View Name:     schematic
* Netlisted on:  Jan 14 19:45:30 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Buffer
* View Name:    schematic
************************************************************************

.SUBCKT Buffer GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MPM1 Y net13 VDD VDD p18 W=1.76u L=180n m=1
MPM0 net13 X VDD VDD p18 W=1.76u L=180n m=1
MNM1 Y net13 GND GND n18 W=880n L=180n m=1
MNM0 net13 X GND GND n18 W=880n L=180n m=1
.ENDS

