************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Buffer3
* View Name:     schematic
* Netlisted on:  Jan 14 19:33:04 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Buffer3
* View Name:    schematic
************************************************************************

.SUBCKT Buffer3 GND VDD X Y
*.PININFO X:I Y:O GND:B VDD:B
MNM1 Y net28 GND GND n18 W=1.76u L=180n m=1
MNM0 net28 X GND GND n18 W=1.76u L=180n m=1
MPM1 Y net28 VDD VDD p18 W=3.52u L=180n m=1
MPM0 net28 X VDD VDD p18 W=3.52u L=180n m=1
.ENDS

