************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: CSA_B
* View Name:     schematic
* Netlisted on:  Dec 30 23:29:09 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX GND I0 I1 INVS S VDD VOUT
*.PININFO I0:I I1:I INVS:I S:I VOUT:O GND:B VDD:B
MPM1 I1 INVS VOUT VDD p18 W=440n L=180n m=1
MPM0 I0 S VOUT VDD p18 W=440n L=180n m=1
MNM1 I1 S VOUT GND n18 W=440n L=180n m=1
MNM0 I0 INVS VOUT GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VOUT
*.PININFO VI:I VOUT:O GND:B VDD:B
MPM0 VOUT VI VDD VDD p18 W=880n L=180n m=1
MNM0 VOUT VI GND GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    CSA_B
* View Name:    schematic
************************************************************************

.SUBCKT CSA_B A B CI COUT GND INVCI INVCOUT S VDD
*.PININFO A:I B:I CI:I INVCI:I COUT:O INVCOUT:O S:O GND:B VDD:B
MPM3 net359 A VDD VDD p18 W=880n L=180n m=1
MPM2 net366 net362 VDD VDD p18 W=440n L=180n m=1
MPM1 net362 B VDD VDD p18 W=440n L=180n m=1
MPM0 net362 A VDD VDD p18 W=440n L=180n m=1
MPM4 net366 B net359 VDD p18 W=880n L=180n m=1
MPM8 net368 A VDD VDD p18 W=880n L=180n m=1
MPM7 net368 B VDD VDD p18 W=880n L=180n m=1
MPM9 net365 net363 net368 VDD p18 W=880n L=180n m=1
MPM6 net363 B net361 VDD p18 W=880n L=180n m=1
MPM5 net361 A VDD VDD p18 W=880n L=180n m=1
XI0 GND net358 net357 INVCI CI VDD S / MUX
XI2 GND net353 net354 INVCI CI VDD COUT / MUX
XI1 GND net362 net363 INVCI CI VDD INVCOUT / MUX
MNM0 net362 A net360 GND n18 W=440n L=180n m=1
MNM4 net366 net362 net364 GND n18 W=440n L=180n m=1
MNM1 net360 B GND GND n18 W=440n L=180n m=1
MNM6 net364 A GND GND n18 W=440n L=180n m=1
MNM5 net364 B GND GND n18 W=440n L=180n m=1
MNM8 net365 A net367 GND n18 W=440n L=180n m=1
MNM3 net363 A GND GND n18 W=220n L=180n m=1
MNM2 net363 B GND GND n18 W=220n L=180n m=1
MNM7 net365 net363 GND GND n18 W=220n L=180n m=1
MNM9 net367 B GND GND n18 W=440n L=180n m=1
XI6 GND VDD net366 net358 / inv
XI5 GND VDD net365 net357 / inv
XI3 GND VDD net362 net353 / inv
XI4 GND VDD net363 net354 / inv
.ENDS

